US08067448B2
4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-nitrophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
A solution of N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-nitrobenzohydrazide (8.5 g, 15.57 mmol) in CH2Cl2 (250 mL) was added to a pre-cooled (0° C.) mixture of PPh3 (8.17 g, 31.13 mmol), iodine (7.90 g, 31.13 mmol) and Et3N (1.11 mL, 7.94 mmol). The reaction mixture was warmed to room temperature, stirred for 50 minutes and quenched with sat. aq. sodium thiosulfate (400 mL). The solution was extracted with CH2Cl2 (250 mL). The organic extract was washed with sat. aq. sodium thiosulfate (300 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a brown oil, which was purified by flash chromatography over silica gel (20-40% EtOAc in hexanes) to provide the title compound as a light yellow solid (5.5 g, 67%): 1H NMR (400 MHz, CDCl3, δ in ppm) 8.37 (dm, J=9.0 Hz, 2H), 8.18 (dm, J=9.0 Hz, 2H), 7.36 (d, J=8.6 Hz, 1H), 6.61 (d, J=8.6 Hz, 1H), 5.11 (d, J=9.2 Hz, 1H), 4.87 (dd, J=3.9, 8.8 Hz, 1H), 4.46 (dq, J=3.7, 6.3 Hz, 1H), 2.34 (s, 3H), 1.31 (d, J=6.3 Hz, 3H), 0.93 (s, 9H), 0.15 (s, 3H), 0.12 (s, 3H).

reactant | N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-nitrobenzohydrazide | 15.57 mmol, 8.5 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C25H32ClN5O5Si
reactant | PPh3 | 31.13 mmol, 8.17 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | iodine | 31.13 mmol, 7.90 g | II | I2
reactant | Et3N | 7.94 mmol, 1.11 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-nitrophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 5.5 g, 67% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H30ClN5O4Si
